US09102669B2
To a mixture of 4-fluoroindoline (62 mg, 0.45 mmol) and 1-(6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-one, prepared as in STEP 3 above (77 mg, 0.3 mmol) in CH2Cl2 (3 mL) was added NaBH(OAc)3 (126 mg, 0.6 mmol). The resulting mixture was stirred at room temperature for 24 h and then concentrated. The resulting mixture was purified by column using 90-100% EtOAc/(CH2Cl2/hexane=1/1) as the eluent to yield the 4-fluoro-1-(1-(6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-yl)indoline as a residue. The title compound was then converted to its corresponding HCl salt.

reactant | 4-fluoroindoline | 0.45 mmol, 62 mg | FC1=C2CCNC2=CC=C1 | C8H8FN
reactant | 1-(6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-one | CN1N=CC(=C1)C1=CC=C(N=N1)N1CCC(CC1)=O | C13H15N5O
reactant | NaBH(OAc)3 | 0.6 mmol, 126 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 4-fluoro-1-(1-(6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-yl)indoline | FC1=C2CCN(C2=CC=C1)C1CCN(CC1)C=1N=NC(=CC1)C=1C=NN(C1)C | C21H23FN6
